US07842710B2
A solution of 0.27 g (1.5 mmol) 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carbonyl chloride in 10 ml dichloromethane is added dropwise to a solution of 0.27 g (1.5 mmol) 2-[1-(isopropylamino)ethyl]aniline (III-4) and 0.42 ml (3.0 mmol) triethylamine in 5 ml dichloromethane. The reaction mixture is stirred for 2 hours at 50° C. and thereafter for 16 hours at room temperature. The reaction mixture is worked up by adding it to water, then the organic phase is dried over magnesium sulfate and concentrated under vacuum. Column chromatography (4:1 hexane/acetone) yielded 0.27 g (56% of the theoretical yield) 5-fluoro-N-{2-[1-(isopropylamino)ethyl]phenyl}-1,3-dimethyl-1H-pyrazole-4-carboxamide [log P (pH 2.3)=0.58].

reactant | 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carbonyl chloride | 1.5 mmol, 0.27 g | FC1=C(C(=NN1C)C)C(=O)Cl | C6H6ClFN2O
reactant | 2-[1-(isopropylamino)ethyl]aniline | 1.5 mmol, 0.27 g | C(C)(C)NC(C)C1=C(N)C=CC=C1 | C11H18N2
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-fluoro-N-{2-[1-(isopropylamino)ethyl]phenyl}-1,3-dimethyl-1H-pyrazole-4-carboxamide | pH 2.3 | FC1=C(C(=NN1C)C)C(=O)NC1=C(C=CC=C1)C(C)NC(C)C | C17H23FN4O
